US04084001
A solution of p-toluenesulphonyl chloride (9.11 g) in pyridine (40 ml) was added in portions to a stirred solution of N-cyano-N'-(5-hydroxypentyl)-N"-methylguanidine (8.0 g) in pyridine (40 ml) at -10°. The mixture was stirred at 2° for 40 hours and was poured into ice-water. The aqueous mixture was extracted with chloroform, and the extracts were washed with dilute hydrochloric acid and evaporated to give 5-(N'-cyano-N"-methylguanidino)pentyl p-toluenesulphonate (6.3 g) as an orange oil.

reactant | p-toluenesulphonyl chloride | 9.11 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | N-cyano-N'-(5-hydroxypentyl)-N"-methylguanidine | 8.0 g | C(#N)NC(=NC)NCCCCCO | C8H16N4O
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 5-(N'-cyano-N"-methylguanidino)pentyl p-toluenesulphonate | 6.3 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCNC(=NC#N)NC)C | C15H22N4O3S
